US07790709B2
Preparation of (E)-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)-3-(2-oxo-1,2,3,4-tetrahydro-pyrido-[2,3-b]pyrazin-7-yl)-acrylamide
Trifluoroacetic acid (0.5 mL) was added to a solution of (E)-7-{2-[methyl-(1-methyl-1H-indol-2-ylmethyl)-carbamoyl]-vinyl}-2-oxo-2,3-dihydro-1H-pyrido[2,3-b]pyrazine-4-carboxylic acid tert-butyl ester in CH2Cl2 (1 mL) at 10° C. After stirring 1 hr, volatiles were removed in vacuo and the resulting residue was dissolved in EtOAc (2 mL). Upon addition of dilute NaOH, a precipitate formed. The solid was collected by filtration, washed with water (100 mL), MeOH (50 mL), EtOAc (50 mL) and CH2Cl2 (50 mL) to afford the title compound (170 mg). 1H NMR (300 MHz, DMSO-d6) δ 10.42 and 10.33 (rotamers, 2s, br, 1H), 7.90 (m, 1H), 7.45 (m, 3H), 7.22 (m, 1H), 7.12 (m, 1H), 6.83 (d, J=15.4 Hz, 1H), 6.42 and 6.17 (rotamers, 2s, 1H), 4.98 and 4.84 (rotamers, 2s, 2H), 3.99 and 3.95 (rotamers, 2s, 2H), 3.72 and 3.68 (rotamers, 2s, 3H), 3.07 and 3.00 (rotamers, 2s, 3H). MS (ESI) m/e: 376 (M+H)+.

reactant | Trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (E)-7-{2-[methyl-(1-methyl-1H-indol-2-ylmethyl)-carbamoyl]-vinyl}-2-oxo-2,3-dihydro-1H-pyrido[2,3-b]pyrazine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2=C(NC(C1)=O)C=C(C=N2)\C=C\C(N(CC=2N(C1=CC=CC=C1C2)C)C)=O | C26H29N5O4
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (E)-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)-3-(2-oxo-1,2,3,4-tetrahydro-pyrido-[2,3-b]pyrazin-7-yl)-acrylamide | 170 mg | CN(C(\C=C\C1=CC2=C(NCC(N2)=O)N=C1)=O)CC=1N(C2=CC=CC=C2C1)C | C21H21N5O2
